US08461328B2
To a solution of 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-1-methyl-cyclohexanol (the resulting solution of previous step) was added a solution of sodium hydroxide (178 mg, 4.45 mmol) in water (2 mL), then the reaction mixture was stirred at 50° C. for 2 hours and neutralized with dilute hydrochloride acid until pH=7. The reaction mixture was purified by a reverse-phase preparatory HPLC (Column: Waters Xbridge C18 150*30 mm*5 um, 25% to 55%: acetonitrile+0.05% NH4OH in water, 10 min, 25 mL/min) to give 20 mg (12%) of 1-Methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanol, LCMS (Method K, ESI): RT=0.725 min, m+H=272.1. 1H NMR (400 MHz, CDCl3) δ: 10.00 (s, 1H), 9.10-9.09 (m, 1H), 7.45-7.44 (m, 1H), 6.82-6.80 (m, 1H), 4.97-4.93 (m, 1H), 2.39-2.34 (m, 4H), 2.06-2.00 (m, 2H), 1.82-1.74 (m, 2H), 1.44 (s, 3H); and 22 mg (14%) of 1-Methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanol, LCMS (Method K, ESI): RT=1.023 min, m+H=272.1. 1H NMR (400 MHz, CDCl3) δ: 10.65-10.63 (m, 1H), 9.11 (s, 1H), 7.44-7.44 (m, 1H), 7.17-7.16 (m, 1H), 5.04-4.97 (m, 1H), 2.80-2.70 (m, 2H), 2.05-1.93 (m, 4H), 1.77-1.69 (m, 2H), 1.40 (s, 3H)

reactant | 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-1-methyl-cyclohexanol | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CCC(CC1)(O)C | C20H21N5O3S
reactant | sodium hydroxide | 4.45 mmol, 178 mg | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 1-Methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanol | 20 mg, 12% | CC1(CCC(CC1)N1N=NC2=CN=C3NC=CC3=C12)O | C14H17N5O
